US07691882B2
5-p-Tolyloxy-thiophene-2-carbaldehyde
To a tetrahydrofuran (70.0 mL) solution of 5-p-tolyloxy-thiophene-2-carbonitrile (2.00 g, 9.29 mmol) described in Manufacturing Example 48-1-1 was added dropwise diisobutyl aluminum hydride (0.97 M n-hexane solution, 23.9 mL, 23.2 mmol) on a dry ice-ethanol bath (−78° C.) under nitrogen atmosphere, which was stirred for 3 hours at room temperature. The reaction mixture was cooled to room temperature and extracted with ethyl acetate after addition of water. The organic layer was washed with saturated aqueous sodium chloride, and the solvent was evaporated under a reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:heptane=1:5) to obtain the title compound (958 mg, 47.2%).

reactant | 5-p-tolyloxy-thiophene-2-carbonitrile | 9.29 mmol, 2.00 g | C1(=CC=C(C=C1)OC1=CC=C(S1)C#N)C | C12H9NOS
reactant | diisobutyl aluminum hydride | 23.2 mmol, 0.97 M, 23.9 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | tetrahydrofuran | 70.0 mL | O1CCCC1 | C4H8O
product | 5-p-Tolyloxy-thiophene-2-carbaldehyde | 958 mg, 47.2% | C1(=CC=C(C=C1)OC1=CC=C(S1)C=O)C | C12H10O2S
